US08461158B2
A stirred mixture of 297 mg (0.57 mmol) of N-[3-({2-(difluoromethyl)-1-[4-(4-morpholinyl)-6-(1-piperazinyl)-1,3,5-triazin-2-yl]-1H-benzimidazol-4-yl}oxy)propyl]-N,N-dimethylamine and 1 g of powdered K2CO3 in CH2Cl2 was cooled to 0° C. and 0.4 g of methanesulphonyl chloride was added. The mixture was allowed to warm to room temperature, and after 2 hrs it was diluted with water and the organic layer was separated and dried. Chromatography on alumina, eluting first with CH2Cl2/EtOAc (1:1) and then with EtOAc gave 200 mg (59% yield) of N-[3-({2-(difluoromethyl)-1-[4-[4-(methylsulfonyl)-1-piperazinyl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1H-benzimidazol-4-yl}oxy)propyl]-N,N-dimethylamine: 1H NMR (CDCl3) δ 7.84 (dd, J=8.4. 0.6 Hz, 1H), 7.43 (t, JHF=53.5 Hz, 1H), 7.33 (t, J=8.2 Hz, 1H), 6.86 (d, J=7.7 Hz, 1H), 4.32 (t, J=6.8 Hz, 2H), 4.02 (m, 4H), 3.88 (m, 4H), 3.78 (m, 4H), 3.33 (m, 4H), 2.81 (s, 3H), 2.54 (t, J=7.2 Hz, 2H), 2.28 (s, 6H), 2.14 (pentet, J=7.0 Hz, 2H); Hydrochloride: mp (EtOH) 243-247° C.; Anal. Calcd. for C25H36ClF2N9O4S 1.5H2O: C, 45.6; H, 6.0; Cl, 5.4, N, 19.1. Found: C, 45.5; H, 6.1; Cl, 5.2; N, 19.2%.

reactant | N-[3-({2-(difluoromethyl)-1-[4-(4-morpholinyl)-6-(1-piperazinyl)-1,3,5-triazin-2-yl]-1H-benzimidazol-4-yl}oxy)propyl]-N,N-dimethylamine | 0.57 mmol, 297 mg | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CCNCC1)C=CC=C2OCCCN(C)C)F | C24H33F2N9O2
reactant | K2CO3 | 1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methanesulphonyl chloride | 0.4 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-[3-({2-(difluoromethyl)-1-[4-[4-(methylsulfonyl)-1-piperazinyl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1H-benzimidazol-4-yl}oxy)propyl]-N,N-dimethylamine | 200 mg, 59% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCN(CC1)S(=O)(=O)C)N1CCOCC1)C=CC=C2OCCCN(C)C)F | C25H35F2N9O4S
